US04001237
4-Amino-6,7-dimethoxy-2-[4-(2-methyloxazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
A solution of 2-methyloxazole-4-carbonyl chloride (1.01 g., 6.9 mmole) in dioxane was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (2.00 g., 6.9 mmole) in dioxane. The mixture was heated at reflux for 2 hours. Filtration gave the title compound having a m.p. of 278°-280° C. with decomposition after recrystallization from methanol.

reactant | 2-methyloxazole-4-carbonyl chloride | 6.9 mmole, 1.01 g | CC=1OC=C(N1)C(=O)Cl | C5H4ClNO2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 6.9 mmole, 2.00 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(2-methyloxazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1N=C(OC1)C | InChI=1S/C19H22N6O4.ClH/c1-11-21-14(10-29-11)18(26)24-4-6-25(7-5-24)19-22-13-9-16(28-3)15(27-2)8-12(13)17(20)23-19;/h8-10H,4-7H2,1-3H3,(H2,20,22,23);1H
